US04968801
Under argon, 382 mg (1 mmol) of 3-(2,3β-dihydro-6-methyl-13-nitro-8α-ergolinyl)-1,1-diethylurea is dissolved in 30 ml of absolute, freshly distilled tetrahydrofuran in the presence of 0.5 ml of triethylamine and cooled to -40° C. At this temperature, 0.16 ml (1.34 mmol) of tert-butyl hypochlorite, dissolved in 10 ml of absolute, freshly distilled tetrahydrofuran, is added dropwise thereto. After 30 minutes of agitation at -40° C., the batch is stirred into 50 ml of ice and adjusted to be alkaline with 25% strength ammonia solution. Extraction is performed with methylene chloride. The combined organic phases are dried over magnesium sulfate and concentrated. The crude product is chromatographed under pressure on silica gel, with methylene chloride/methanol/diisopropyl ether in a ratio of 80:5:15 (yield 351 mg) and subsequently crystallized from ethyl acetate/diisopropyl ether, thus obtaining 272 mg of 3-(6-methyl-13-nitro-8α-ergolinyl)-1,1-diethylurea (71.7% yield).

reactant | 3-(2,3β-dihydro-6-methyl-13-nitro-8α-ergolinyl)-1,1-diethylurea | 1 mmol, 382 mg | CN1C[C@H](C[C@@H]2C=3C=C(C=C4NC[C@@H](C[C@@H]12)C34)[N+](=O)[O-])NC(N(CC)CC)=O | C20H29N5O3
reactant | tert-butyl hypochlorite | 1.34 mmol, 0.16 ml | ClOC(C)(C)C | C4H9ClO
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | 3-(6-methyl-13-nitro-8α-ergolinyl)-1,1-diethylurea | 272 mg, 71.7% yield | CN1C[C@H](C[C@@H]2C=3C=C(C=C4NC=C(C[C@@H]12)C34)[N+](=O)[O-])NC(N(CC)CC)=O | C20H27N5O3
